US08008293B2
Synthesis of (R)-1-[(3R,5R)-5-(4-chlorophenyl)morpholin-3 yl]ethanol
Trimethylsilyl iodide (3.07 mL) was added to a dichloromethane (20 mL) solution of (3R,5R)-3-((R)-1-benzyloxyethyl)-5-(4-chlorophenyl)morpholin (1.44 g). Stirring was continued for 10 hours at room temperature. Additional trimethylsilyl iodide (3.07 mL) was added, and the resultant was stirred at room temperature for 4 days. Additional trimethylsilyl iodide (3.07 mL) was further added, and stirring was continued for 1 day. Additional trimethylsilyl iodide (3.07 mL) was further added, and stirring was continued for 10 hours at room temperature. A 5 N sodium hydroxide solution was added, and the organic layer was partitioned. The organic layer was dried over anhydrous magnesium sulfate. The resultant was purified with silica gel column chromatography (heptane/ethyl acetate). The title compound (903 mg) was obtained. The physical property values are as follows.

reactant | Trimethylsilyl iodide | 3.07 mL | C[Si](C)(C)I | C3H9ISi
reactant | (3R,5R)-3-((R)-1-benzyloxyethyl)-5-(4-chlorophenyl)morpholin | 1.44 g | C(C1=CC=CC=C1)O[C@H](C)[C@@H]1N[C@@H](COC1)C1=CC=C(C=C1)Cl | C19H22ClNO2
reactant | trimethylsilyl iodide | 3.07 mL | C[Si](C)(C)I | C3H9ISi
reactant | trimethylsilyl iodide | 3.07 mL | C[Si](C)(C)I | C3H9ISi
reactant | trimethylsilyl iodide | 3.07 mL | C[Si](C)(C)I | C3H9ISi
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (R)-1-[(3R,5R)-5-(4-chlorophenyl)morpholin-3 yl]ethanol | 903 mg | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)[C@@H](C)O | C12H16ClNO2
